US08022222B2
Step C: Preparation of 1-(1-acetylpiperidin-4-yl)-2-bromoethanone:
1,1′-(Piperidine-1,4-diyl)diethanone (38.00 g, 224.6 mmol) was dissolved in methanol (700 ml) and bromine (12.11 ml, 235.8 mmol) was added in portions. The resulting mixture was agitated 3 hours and the solvent was removed in vacuo. The resulting solid was triturated with ethyl acetate and partitioned between ethyl acetate and sodium carbonate solution. The organic phase was separated, washed with brine, dried and evaporated to give the desired product (44.70 g, 80.23% yield) as yellow solid.

reactant | 1,1′-(Piperidine-1,4-diyl)diethanone | 224.6 mmol, 38.00 g | N1(CCC(CC1)C(C)=O)C(C)=O | C9H15NO2
reactant | bromine | 235.8 mmol, 12.11 ml | BrBr | Br2
solvent | methanol | 700 ml | CO | CH4O
product | 1-(1-acetylpiperidin-4-yl)-2-bromoethanone | 44.70 g, 80.23% yield | C(C)(=O)N1CCC(CC1)C(CBr)=O | C9H14BrNO2
